US07071224B2
Step C: Preparation of (S)-3-(1-Cyano-1,1-diphenylmethyl)pyrrolidine
To a stirred solution of (S)-1-benzyl-3-(1-cyano-1,1-diphenylmethyl)-pyrrolidine hydrochloride (8.55 g, 21.98 mmol) in MeOH (44 mL) was added palladium on carbon (1.71 g) and ammonium formate (6.93 g, 109.9 mmol). The reaction mixture was heated to 50° C. with stirring for 3 hours. The reaction was cooled to ambient temperature and water (20 mL) was added. The resulting mixture was filtered through a pad of Celite, washing with MeOH (20 mL). The filtrate was collected and most of the MeOH was removed in vacuo. The residue was mixed with IPAc (100 mL) and 10% aqueous sodium carbonate (50 mL). The resulting layers were separated and the aqueous layer was extracted with IPAc (50 mL). The organic layers were combined and dried over sodium sulfate (20 g). The sodium sulfate was filtered off and washed with IPAc (20 mL). The solvent was removed in vacuo to afford 5.75 g of the title intermediate as a light yellow oil (99.7% yield, 71% purity by HPLC).

reactant | (S)-1-benzyl-3-(1-cyano-1,1-diphenylmethyl)-pyrrolidine hydrochloride | 21.98 mmol, 8.55 g | Cl.C(C1=CC=CC=C1)N1C[C@@H](CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C#N
reactant | ammonium formate | 109.9 mmol, 6.93 g | C(=O)[O-].[NH4+]
reactant | water | 20 mL | O | H2O
solvent | MeOH | 44 mL | CO | CH4O
catalyst | palladium on carbon | 1.71 g | [Pd] | Pd
product | (S)-3-(1-Cyano-1,1-diphenylmethyl)pyrrolidine | 5.75 g, 99.7% yield | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@H]1CNCC1 | C18H18N2
